US08030300B2
3-Hydroxymethylpiperidine-1-carboxylic acid benzyl ester:
To a stirred solution of 3-hydroxymethylpiperidine (1 g, 8.7 mmol) in CH2Cl2 (50 mL) and Et3N (1.12 mml) at 0° C. was added dropwise CbzCl (1.24 mL, 8.7 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was washed with brine, dried over Na2SO4, and concentrated. The residue was purified by chromatography with hexane-EtOAc (2:1) to give a colorless oil (2 g, 94%). 1H NMR (CDCl3) δ 7.35 (m, 5H), 5.12 (m, 2H), 4.20-3.60 (m, 2H), 3.47 (m, 2H), 3.20-2.20 (m, 3H), 1.82-1.10 (m, 5H); 13C NMR (CDCl3) δ 155.55, 136.73, 128.38, 127.85, 127.69, 66.96, 64.31, 46.74, 44.71, 38.01, 26.77, 24.05.

reactant | 3-hydroxymethylpiperidine | 8.7 mmol, 1 g | OCC1CNCCC1 | C6H13NO
reactant | CbzCl | 8.7 mmol, 1.24 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | 3-Hydroxymethylpiperidine-1-carboxylic acid benzyl ester | 2 g, 94% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CO | C14H19NO3
